US07375227B2
392E. 1-{2-[4-(3-Methyl-benzylidene)-piperidin-1-yl]-2-oxo-ethyl}-3-(2-methyl-quinolin-4-yl)-urea
A suspension of (3-quinolin-4-yl-ureido)-acetic acid hydrochloride (281.7 mg, 1 mmol), 4-(3-methyl-benzylidene)-piperidine (187.3 mg, 1 mmol), TEA (1 mL, 7 mmol) in DMF (4 mL) and T3P (50% in EtOAc, 1 mL, 1.7 mmol) is stirred for 2 h at room temperature. The DMF is evaporated, the residue dissolved in CH2Cl2 (150 mL) and washed with 1M aqueous NaOH (50 mL) and brine (30 mL). The organic phase is dried (Na2SO4), filtered and evaporated to provide the crude title compound.

reactant | (3-quinolin-4-yl-ureido)-acetic acid hydrochloride | 1 mmol, 281.7 mg | Cl.N1=CC=C(C2=CC=CC=C12)NC(NCC(=O)O)=O
reactant | 4-(3-methyl-benzylidene)-piperidine | 1 mmol, 187.3 mg | CC=1C=C(C=C2CCNCC2)C=CC1 | C13H17N
reactant | T3P | 1.7 mmol, 1 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-{2-[4-(3-Methyl-benzylidene)-piperidin-1-yl]-2-oxo-ethyl}-3-(2-methyl-quinolin-4-yl)-urea | CC=1C=C(C=C2CCN(CC2)C(CNC(=O)NC2=CC(=NC3=CC=CC=C23)C)=O)C=CC1 | C26H28N4O2
